US04654363
Step A: Preparation of 4,6-Dichloro-7-trifluoromethanesulfonyloxyindan-1-one
4,6-Dichloro-7-hydroxyindan-1-one (21.71 g., 0.1 mole) was dissolved in DMF (80 ml) in a dry apparatus under nitrogen. Trifluormethanesulfonylchloride (21.60 g., 0.128 mole) was added with stirring, slowly, dropwise over a 20 minute period with occasional cooling to keep the internal temperature below 30° C. After the addition was complete, the reaction was stirred at room temperature for 30 minutes, then poured into ice-water with swirling. The green crystals were collected, washed with water, sucked dry, then dried in a vacuum oven at 50° C. to give 32.7 g. of the title compound mp 96°-100° C. Recrystallization from hexanes gave 22.4 g., mp 96°-98° C. A sublimed sample had mp 90°-96° C.

reactant | 4,6-Dichloro-7-hydroxyindan-1-one | 0.1 mole, 21.71 g | ClC1=C2CCC(C2=C(C(=C1)Cl)O)=O | C9H6Cl2O2
reactant | Trifluormethanesulfonylchloride | 0.128 mole, 21.60 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4,6-Dichloro-7-trifluoromethanesulfonyloxyindan-1-one | ClC1=C2CCC(C2=C(C(=C1)Cl)OS(=O)(=O)C(F)(F)F)=O | C10H5Cl2F3O4S
